US08293715B2
Synthesis of 2-hydroxybenzyl acetate
2-Hydroxybenzyl alcohol (1.0 g) was dissolved in methylene chloride (20 ml), the solution was slowly added dropwise with pyridine (0.65 ml) and acetyl chloride (0.57 ml) under ice cooling, and the mixture was stirred for 30 minutes. The reaction mixture was added with saturated aqueous ammonium chloride, the mixture was extracted with chloroform, and the organic layer was dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=5:1) to obtain the title compound (1.22 g).

reactant | 2-Hydroxybenzyl alcohol | 1.0 g | OC1=C(CO)C=CC=C1 | C7H8O2
reactant | pyridine | 0.65 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.57 ml | C(C)(=O)Cl | C2H3ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-hydroxybenzyl acetate | 1.22 g | C(C)(=O)OCC1=C(C=CC=C1)O | C9H10O3
